US09079866B2
trans-4-((3-Bromopyridin-2-yl)oxy)cyclohexanamine
To a cooled (0° C.) 150 mL reaction tube equipped with reflux condenser and under a nitrogen atmosphere, were added trans-4-aminocyclohexanol (2.0 g, 17 mmol), NaH (2.08 g, 60% dispersion in mineral oil, 52.1 mmol), and DMF (25 mL) to give a colorless solution. After stirring for 1 h, 3-bromo-2-chloropyridine (3.34 g, 17.4 mmol) was added to the mixture And the resulting mixture heated at 60° Celsius for 5 h. After the starting material was consumed, the reaction was cooled to room temperature and quenched with H2O (2 mL). The reaction mixture was concentrated to dryness and the resultant residue purified by FCC to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.11 (dd, J=4.8, 1.6, 1H), 7.98 (dd, J=7.7, 1.6, 1H), 6.89 (dd, J=7.7, 4.8, 1H), 4.92 (dd, J=9.4, 5.2, 1H), 2.98 (s, 1H), 2.05 (m, 2H), 1.95 (m, 2H), 1.53-1.38 (m, 4H)

reactant | trans-4-aminocyclohexanol | 17 mmol, 2.0 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | NaH | 52.1 mmol, 2.08 g | [H-].[Na+]
reactant | 3-bromo-2-chloropyridine | 17.4 mmol, 3.34 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | trans-4-((3-Bromopyridin-2-yl)oxy)cyclohexanamine | BrC=1C(=NC=CC1)O[C@@H]1CC[C@H](CC1)N | C11H15BrN2O
